US05608110
C. Preparation of 3-chloro-1-[2-hydroxy-3-(2-nitro-1H-imidazol-1-yl]propoxy]-3-methyl-2-nitrosobutane
To a cooled (0°-5° C.) stirred slurry of 1-[2-hydroxy-3-(2 -nitro-1H-imidazol-1-yl)propyl dimethylallyl ether (7.0 g, 0.0275 mol) in isoamyl nitrite (43 g, 50 mL, 0.042 mol) was added concentrated hydrochloric acid (2.5 mL, 0.03 mol) with stirring. The reaction mixture was maintained below 5° C. during the addition and stirred at 5° C. for an additional 2 hrs. The solid formed was stirred with cold ether-ethanol (3:1, 150 mL), filtered, and dried under vacuum. Yield: 5.8 g (67%). mp: 116°-117° C. dec. 1H NMR (DMSO) δ1.55 and 1.62 (s, 6H, CH3), 3.35 (m, 4H, CH2OCH2CHOH), 3.82 (m, 1H, CHOH), 4.1-4.52 (m, 2H, CHOHCH2N<), 5.3 (m, 1H, CHOH), 6.0 (dd, 1H, CHNO), 7.15 and 7.42 (s, 2H, imi H).

reactant | 2-hydroxy-3-(2 -nitro-1H-imidazol-1-yl)propyl dimethylallyl ether | 0.0275 mol, 7.0 g | CC(=CCOCC(CN1C(=NC=C1)[N+](=O)[O-])O)C | C11H17N3O4
reactant | isoamyl nitrite | 0.042 mol, 50 mL, 43 g | N(=O)OCCC(C)C | C5H11NO2
reactant | hydrochloric acid | 0.03 mol, 2.5 mL | Cl | ClH
product | 3-chloro-1-[2-hydroxy-3-(2-nitro-1H-imidazol-1-yl]propoxy]-3-methyl-2-nitrosobutane | ClC(C(COCC(CN1C(=NC=C1)[N+](=O)[O-])O)N=O)(C)C | C11H17ClN4O5
